US07129225B2
5-nitro-2-propyloxybenzaldehyde
This compound was prepared by the reaction of 2-hydroxy-5-nitrobenzaldehyde and 1-iodopropane using a similar procedure as described in the preparation of 2-methoxy-5-nitrobenzaldehyde methyl hemiacetal. Yield was 72%: MP 51–52° C.; 1H NMR (500 MHz, CDCl3) δ10.46 (s, 1H), 8.68 (d, 1H, J=2.9 Hz), 8.39 (dd, 1H, J=2.7 and 9.1 Hz), 7.08 (d, 1H, J=9.1 Hz), 4.16 (t, 2H, J=6.2), 1.93 (m, 2H), 1.98 (t, 3H, J=7.37).

reactant | 2-hydroxy-5-nitrobenzaldehyde | OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H5NO4
reactant | 1-iodopropane | ICCC | C3H7I
reactant | 2-methoxy-5-nitrobenzaldehyde methyl hemiacetal | COC(C1=C(C=CC(=C1)[N+](=O)[O-])OC)O | C9H11NO5
product | 5-nitro-2-propyloxybenzaldehyde | Yield was 72% | [N+](=O)([O-])C=1C=CC(=C(C=O)C1)OCCC | C10H11NO4
